US08461134B2
To a solution of N-(3-(ethylthiomethyl)phenyl)acetamide (1 g, 5 mmol) in DCM (10 mL) was added mCPBA (2.4 g, 14 mol). The reaction mixture was stirred at 40° C. overnight. Then water was added, the organic layer was separated and washed with an aqueous of NaHCO3, dried over Na2SO4, concentrated and purified by silica gel chromatography (petroleum ether:EtOAc=1:0 to 5:1) to give N-(3-(ethylsulfonylmethyl)phenyl)acetamide (1 g, 87% yield) as a white solid. 1H NMR: (400 MHz, CDCl3) δ 7.84 (s, 1H), 7.61 (s, 1H), 7.41 (d, 1H), 7.24 (t, 1H), 7.14 (d, 1H), 4.14 (s, 2H), 2.90-2.85 (m, 2H), 2.12 (s, 3H), 1.34 (t, 3H).

reactant | N-(3-(ethylthiomethyl)phenyl)acetamide | 5 mmol, 1 g | C(C)SCC=1C=C(C=CC1)NC(C)=O | C11H15NOS
reactant | mCPBA | 14 mol, 2.4 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(ethylsulfonylmethyl)phenyl)acetamide | 1 g, 87% yield | C(C)S(=O)(=O)CC=1C=C(C=CC1)NC(C)=O | C11H15NO3S
